US04471116
To 48% hydrobromic acid solution (110 g) was added 4-(3-hydroxypropyl)phenol (25 g) and heated on a steam bath for 3 hours. After cooling, water (500 ml) was added, the oil was extracted with ether, washed with water and then with dilute sodium bicarbonate solution. The etheral extract was dried over potassium carbonate, evaporated and the residue was distilled in a Kugelrohr apparatus giving 29.6 g (84%) of 4-(3-bromopropyl)phenol, bp 180° (2 mm). The product was 92.6% pure by gas chromatography and mass spectrum was compatible with 4-(3-bromopropyl)phenol.

reactant | hydrobromic acid | 110 g | Br | BrH
reactant | 4-(3-hydroxypropyl)phenol | 25 g | OCCCC1=CC=C(C=C1)O | C9H12O2
solvent | water | 500 ml | O | H2O
product | 4-(3-bromopropyl)phenol | 29.6 g, 84% | BrCCCC1=CC=C(C=C1)O | C9H11BrO
